US09290517B2
Step A: 6-([1,1′-biphenyl]-4-yl)-5-chloro-2-nitropyridin-3-amine
LiOH (5.73 ml, 17.19 mmol) was added to a stirred mixture of 4-biphenylboronic acid (1.498 g, 7.57 mmol), 5-chloro-6-iodo-2-nitropyridin-3-amine (2.0595 g, 6.88 mmol) and 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (0.562 g, 0.688 mmol) in dioxane (15 ml)/water (4 ml) and the mixture was stirred under N2 at 80° C. for 2 h. The mixture was cooled, then aqueous ammonium chloride (saturated, 100 mL) was added and the mixture was extracted with ethyl acetate (2×100 mL). The combined organic fractions were washed with brine (saturated, 80 mL), dried (Na2SO4), filtered and the solvent was evaporated under reduced pressure. The resulting residue was purified by column chromatography on silica gel Biotage™40M, eluting with 0-20% EtOAc/hexane to give the title compound. LC-MS: calculated for C17H12ClN3O2 325.06 observed m/e: 326.09 (M+H)+ (Rt 1.28/2 min).

reactant | LiOH | 17.19 mmol, 5.73 ml | [Li+].[OH-]
reactant | 4-biphenylboronic acid | 7.57 mmol, 1.498 g | C1(=CC=C(C=C1)B(O)O)C1=CC=CC=C1 | C12H11BO2
reactant | 5-chloro-6-iodo-2-nitropyridin-3-amine | 6.88 mmol, 2.0595 g | ClC=1C=C(C(=NC1I)[N+](=O)[O-])N | C5H3ClIN3O2
reactant | ammonium chloride | 100 mL | [Cl-].[NH4+]
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
solvent | water | 4 ml | O | H2O
product | 6-([1,1′-biphenyl]-4-yl)-5-chloro-2-nitropyridin-3-amine | C1(=CC=C(C=C1)C1=C(C=C(C(=N1)[N+](=O)[O-])N)Cl)C1=CC=CC=C1 | C17H12ClN3O2
